US08207180B2
8-Amino-2-phenyl-1H-1,7,9-triaza-cyclopenta[a]naphthalene-3-carboxylic acid ethyl ester (N8)
To a solution of 5-(2-amino-5-bromo-pyrimidin-4-yl)-4-iodo-2-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester (XXVIIA, R2=phenyl, R3=COOEt, 0.099 mmol) in dioxane (4 mL), under argon, vinyltributyltin (0.099 mmol), 2,6-di-tert-butyl-4-methylphenol (0.0045 mmol) and Pd(Ph3P)4 (0.01 mmol) were added. The reaction mixture was heated at 110° C. for 3 h, cooled to rt, the precipitate filtered through a celite pad and the resulting solution evaporated to dryness. The residue was chromatographed on silica gel (eluant: AcOEt/hexane 4:1) affording the title compound (0.03 mmol, 30% yield), ESI (+) MS: m/z 333 (MH+). 1H NMR: 1.20 (t, J=7.03, 3H), 4.19 (q, J=7.03, 2H), 6.55 (bs, 2H), 7.50 (d, J=8.60, 1H), 7.53-7.70 (m., 5H), 7.90 (d, J=8.60, 1H), 9.07 (s, 1H), 12.93 (s, 1H), and 5-amino-8-methylene-2-phenyl-3,8-dihydro-3,4,6-triaza-cyclopenta[a]indene-1-carboxylic acid ethyl ester (0.024 mmol) (XXVIII, R2=phenyl, R3=COOEt), ESI (+) MS: m/z 333 (MH+). 1H NMR: 1.14 (t, J=7.07 Hz, 3H), 4.16 (q, J=7.07 Hz, 2H), 6.02 (d, J=1.32, 1H), 6.43 (d, J=1.32, 1H), 6.57 (bs, 2H), 7.40-7.46 (m, 2H), 7.52-7.66 (m, 3H), 8.44 (s, 1H), 12.74 (s, 1H).

reactant | 5-(2-amino-5-bromo-pyrimidin-4-yl)-4-iodo-2-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | 0.099 mmol | C(C)OC(=O)C1=C(NC(=C1I)C1=NC(=NC=C1Br)N)C1=CC=CC=C1 | C17H14BrIN4O2
reactant | vinyltributyltin | 0.099 mmol | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | 2,6-di-tert-butyl-4-methylphenol | 0.0045 mmol | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)4 | 0.01 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-Amino-2-phenyl-1H-1,7,9-triaza-cyclopenta[a]naphthalene-3-carboxylic acid ethyl ester | 0.03 mmol, 30% yield | C(C)OC(=O)C1=C(NC=2C1=CC=C1C=NC(=NC21)N)C2=CC=CC=C2 | C19H16N4O2
